US08563717B2
Intermediate 96: N2-Butyl-8-(methyloxy)-9-[4-(4-piperidinyl)butyl]-9H-purine-2,6-diamine
A solution of phenylmethyl 4-{4-[6-amino-2-(butylamino)-8-(methyloxy)-9H-purin-9-yl]butyl}-1-piperidinecarboxylate ammoniate (372 mg, 0.730 mmol) and 10% palladium on carbon (155 mg, 0.146 mmol) in ethanol (5 ml) was hydrogenated at atmospheric pressure and room temperature for 18 hours. The catalyst was filtered through Celite and the filtrate concentrated in vacuo. The residue was dissolved in 1:1 MeOH:DMSO (3 ml) and purified by Mass Directed AutoPrep (Method A). The solvent was dried under a stream of nitrogen in the Radleys blowdown apparatus to give the title compound as a white gum (157 mg).

reactant | phenylmethyl 4-{4-[6-amino-2-(butylamino)-8-(methyloxy)-9H-purin-9-yl]butyl}-1-piperidinecarboxylate | 0.730 mmol, 372 mg | NC1=C2N=C(N(C2=NC(=N1)NCCCC)CCCCC1CCN(CC1)C(=O)OCC1=CC=CC=C1)OC | C27H39N7O3
catalyst | palladium on carbon | 0.146 mmol, 155 mg | [Pd] | Pd
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N2-Butyl-8-(methyloxy)-9-[4-(4-piperidinyl)butyl]-9H-purine-2,6-diamine | 157 mg | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CCCCC1CCNCC1)OC)N | C19H33N7O
